US05677303
3-(4-Chlorobenzylsulfanyl)-3-(3,4-dimethoxyphenyl)-1-morpholin-4-ylprop-2-en-1-one
3.17 g (20 mmol) of 4-chlorobenzylmercaptan are dissolved in 20 ml of methanol containing 3.60 g (20 mmol) of sodium methylate (30%), warmed to 50° C. and then evaporated. A solution of 4.68 g (15 mmol) of 3-chloro-3-(3,4-dimethoxyphenyl)-1-morpholin-4-ylprop-2-en-1-one in 20 ml of dimethylformamide is added. At the end of the exothermic reaction the solution is stirred at 100° C. for 1 hour and the solvent is evaporated. The residue is shaken with toluene/water, the organic phase is washed with water, dried and the reaction product is purified by flash column (150 g of silicagel) chromatography; elution with 1000 ml of toluene containing 10 and 20% of acetone. The fractions with TLC Rf-values 0.45 and 0.38 (toluene/acetone 7:3) are collected and evaporated.

reactant | 4-chlorobenzylmercaptan | 20 mmol, 3.17 g | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | methanol | 20 mmol, 20 ml, 3.60 g | CO | CH4O
reactant | 3-chloro-3-(3,4-dimethoxyphenyl)-1-morpholin-4-ylprop-2-en-1-one | 15 mmol, 4.68 g | ClC(=CC(=O)N1CCOCC1)C1=CC(=C(C=C1)OC)OC | C15H18ClNO4
solvent | sodium methylate | C[O-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(4-Chlorobenzylsulfanyl)-3-(3,4-dimethoxyphenyl)-1-morpholin-4-ylprop-2-en-1-one | ClC1=CC=C(CSC(=CC(=O)N2CCOCC2)C2=CC(=C(C=C2)OC)OC)C=C1 | C22H24ClNO4S
